US07714126B2
With a procedure similar to example 1 above, 5-chloro-2-phenyl-oxazole-4-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide was prepared from 5-chloro-2-phenyl-oxazole-4-carboxylic acid and methyl-(6-morpholin-4-yl-pyridin-3-yl)-amine. LCMS calcd for C19H17ClN4O3 (m/e) 384, obsd 385 (M+H).

reactant | 5-chloro-2-phenyl-oxazole-4-carboxylic acid | ClC1=C(N=C(O1)C1=CC=CC=C1)C(=O)O | C10H6ClNO3
reactant | methyl-(6-morpholin-4-yl-pyridin-3-yl)-amine | CNC=1C=NC(=CC1)N1CCOCC1 | C10H15N3O
product | 5-chloro-2-phenyl-oxazole-4-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide | N1(CCOCC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1Cl)C1=CC=CC=C1 | C19H17ClN4O3
